US08685974B2
A mixture of N-(4-bromopyridin-2-yl)propionamide (262 mmol), bis(pinacolato)diboron (340 mmol), potassium acetate (785 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (13.1 mmol) in 2.0 L dry dioxane was stirred under argon atmosphere at 80° C. for 4 h. The reaction mixture was filtered and washed with dichloromethane. The filtrate was concentrated. The residue was recrystallized in hexane/ethyl acetate (8:1) to afford 50 g of N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]propanamide (69% yield).

reactant | N-(4-bromopyridin-2-yl)propionamide | 262 mmol | BrC1=CC(=NC=C1)NC(CC)=O | C8H9BrN2O
reactant | bis(pinacolato)diboron | 340 mmol | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 785 mmol | C(C)(=O)[O-].[K+]
solvent | dioxane | 2.0 L | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 13.1 mmol | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]propanamide | 50 g, 69% yield | CC1(OB(OC1(C)C)C1=CC(=NC=C1)NC(CC)=O)C | C14H21BN2O3
